US06541583B2
Under the nitrogen protection, 1.52 grams (0.0077 mole) of 5,8-dimethyl-5,10-dihydroindeno[1,2-b]indole is dissolved in 15 mL of toluene. To the solution is added 3.9 mL of n-butyllithium solution in pentane (2.0 mole/L). The mixture is refluxed for three hours and then cooled to 25° C. The precipitate is isolated by filtration, washed with hexane, and dried under vacuum, yielding 1.26 grams of 5,8-dimethyl-5,10-dihydroindeno [1,2-b]indolyllithium.

reactant | 5,8-dimethyl-5,10-dihydroindeno[1,2-b]indole | 0.0077 mole, 1.52 grams | CN1C2=C(C=3C=C(C=CC13)C)CC1=CC=CC=C12 | C17H15N
reactant | n-butyllithium | 3.9 mL | C(CCC)[Li]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | pentane | 2.0 mole/L | CCCCC | C5H12
product | 5,8-dimethyl-5,10-dihydroindeno [1,2-b]indolyllithium | 1.26 grams | CN1C2=C(C=3C=C(C=CC13)C)CC1=C(C=CC=C12)[Li] | InChI=1S/C17H14N.Li/c1-11-7-8-16-14(9-11)15-10-12-5-3-4-6-13(12)17(15)18(16)2;/h3-4,6-9H,10H2,1-2H3;
